* File: /home/eng/a/axk220238/vlsi/cad/gf65/axk220238_axk230133/DFF/DFF_lvs/DFF.pex.sp.pex
* Created: Thu Nov 30 17:50:59 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFF%NET026 1 3 6 12 15 18 20 21 22 26 27 29 31 33 35 37 41 46 53 56
+ 61 65 69 75 78 79 82 85 87 91
c194 75 0 5.6063e-20
c195 69 0 1.98447e-19
r196 76 85 5.3531
r197 75 76 25
r198 72 75 0.034003
r199 70 82 5.3531
r200 69 70 25
r201 63 65 0.0874363
r202 59 61 0.0874363
r203 57 91 5.3531
r204 56 57 25
r205 53 87 5.3531
r206 52 56 0.359461
r207 52 53 25
r208 49 78 15
r209 46 49 0.468484
r210 46 78 10
r211 44 72 0.00503833
r212 44 49 0.836244
r213 43 65 0.00503833
r214 43 46 0.182709
r215 41 79 10
r216 39 61 0.00503833
r217 39 41 0.180366
r218 38 69 0.00503833
r219 38 41 0.621913
r220 37 63 0.00503833
r221 36 59 0.00503833
r222 36 37 0.977209
r223 25 35 25.3858
r224 25 26 33.3921
r225 21 26 3.46412
r226 21 22 19.5276
r227 19 33 44.9134
r228 19 20 43.4488
r229 18 33 44.9134
r230 17 22 3.46412
r231 17 18 33.4898
r232 15 20 3.46412
r233 15 91 49.3071
r234 14 27 2.62536
r235 14 87 49.3071
r236 12 27 0.682285
r237 11 31 44.9134
r238 11 12 43.4488
r239 6 29 25.3858
r240 5 6 25.3858
r241 3 27 2.62536
r242 3 85 154.756
r243 1 5 3.46412
r244 1 82 128.882
.ends

.subckt PM_DFF%VSS 1 6 9 19 22 32 35 42 45 55 58 65 70 73 76 83 85 87 88 90 91
c264 45 0 1.41473e-19
c265 1 0 2.18907e-19
r266 68 79 0.0264868
r267 68 70 0.129211
r268 65 91 10
r269 63 79 0.018948
r270 63 65 1.80512
r271 59 78 0.0264868
r272 59 61 0.260366
r273 58 79 0.0264868
r274 58 61 0.171958
r275 55 90 10
r276 53 78 0.018948
r277 53 55 1.35743
r278 48 51 0.582909
r279 46 77 0.0264868
r280 46 48 0.381805
r281 45 78 0.0264868
r282 45 51 0.235107
r283 42 88 10
r284 40 77 0.018948
r285 40 42 1.95406
r286 36 76 0.0264868
r287 36 38 0.318657
r288 35 77 0.0264868
r289 35 38 0.113667
r290 32 87 10
r291 30 76 0.018948
r292 30 32 1.95406
r293 25 28 0.630929
r294 23 74 0.0264868
r295 23 25 0.476351
r296 22 76 0.0264868
r297 22 28 0.191382
r298 19 85 10
r299 17 74 0.018948
r300 17 19 1.95406
r301 12 15 0.630929
r302 10 73 0.0264868
r303 10 12 0.0514903
r304 9 74 0.0264868
r305 9 15 0.0553763
r306 6 83 10
r307 4 73 0.018948
r308 4 6 1.80512
r309 1 70 15
r310 1 61 10
r311 1 51 10
r312 1 48 10
r313 1 38 10
r314 1 28 10
r315 1 25 10
r316 1 15 10
r317 1 12 10
.ends

.subckt PM_DFF%NET058 4 6 8 13 16 18 19 20 24 25 27 32 36 39 41 43 45 47 49 53
+ 62 65 68 73 76 81 87 93 96 97 100 103 105 106 108 111 115 118
c259 93 0 9.02269e-20
c260 81 0 9.21922e-20
c261 39 0 1.98447e-19
c262 16 0 1.37453e-19
r263 103 111 55.1654
r264 100 108 55.1654
r265 94 103 5.3531
r266 93 94 25
r267 90 93 0.0438491
r268 88 106 5.3531
r269 88 105 5.3531
r270 87 88 25
r271 84 87 0.121439
r272 82 100 5.3531
r273 81 82 25
r274 77 115 5.3531
r275 76 77 25
r276 73 111 5.3531
r277 72 76 0.789285
r278 72 73 25
r279 69 118 5.3531
r280 68 69 25
r281 65 108 5.3531
r282 64 68 1.12129
r283 64 65 25
r284 62 90 0.00503833
r285 61 84 0.00503833
r286 61 62 0.380643
r287 59 96 15
r288 56 59 0.468484
r289 56 96 10
r290 53 56 2.14121
r291 53 97 10
r292 51 84 0.00503833
r293 51 59 0.566866
r294 50 81 0.00503833
r295 50 53 1.10797
r296 37 47 25.3858
r297 35 49 44.9134
r298 35 36 65.9055
r299 32 37 9.13684
r300 31 32 56.6299
r301 27 31 3.46412
r302 27 118 107.89
r303 25 36 3.46412
r304 25 115 153.291
r305 23 45 25.3858
r306 23 24 33.3921
r307 19 24 3.46412
r308 19 20 19.5276
r309 17 43 44.9134
r310 17 18 25.3858
r311 16 43 44.9134
r312 15 20 3.46412
r313 15 16 33.4898
r314 13 18 3.46412
r315 13 106 68.3465
r316 8 105 40.5197
r317 6 8 3.46412
r318 5 41 44.9134
r319 5 6 25.3858
r320 4 41 44.9134
r321 3 39 25.3858
r322 3 4 73.2283
.ends

.subckt PM_DFF%NET21 1 4 6 8 9 10 14 16 18 20 22 24 26 30 34 42 46 50 53 54 57
c149 53 0 2.91041e-19
r150 51 57 5.3531
r151 50 51 25
r152 44 46 0.0874363
r153 40 42 0.0874363
r154 37 53 15
r155 34 37 0.468484
r156 34 53 10
r157 32 46 0.00503833
r158 32 34 0.182709
r159 30 54 10
r160 28 42 0.00503833
r161 28 30 0.180366
r162 27 50 0.00503833
r163 27 30 0.838587
r164 26 44 0.00503833
r165 25 40 0.00503833
r166 25 26 1.31507
r167 15 24 44.9134
r168 15 16 25.3858
r169 14 24 44.9134
r170 13 22 25.3858
r171 13 14 73.2283
r172 9 16 3.46412
r173 9 10 97.6378
r174 8 10 3.46412
r175 7 20 44.9134
r176 7 8 25.3858
r177 6 20 44.9134
r178 5 18 25.3858
r179 5 6 73.2283
r180 4 18 25.3858
r181 3 4 47.8425
r182 1 3 3.46412
r183 1 57 102.52
.ends

.subckt PM_DFF%NET27 4 8 9 11 12 19 24 30 31 33
c99 31 0 1.84933e-21
c100 12 0 1.64073e-19
c101 11 0 1.45516e-19
c102 8 0 1.45516e-19
r103 27 31 15
r104 24 27 0.577442
r105 24 31 10
r106 22 30 0.0363272
r107 22 24 0.521141
r108 19 33 10
r109 17 30 0.0363272
r110 17 19 1.18231
r111 14 15 25
r112 12 30 0.00944082
r113 12 14 0.977875
r114 9 15 9.09917
r115 9 11 44.9134
r116 4 15 4.18385
r117 3 8 25.3858
r118 3 4 53.7008
.ends

.subckt PM_DFF%NET35 4 6 10 12 15 26 29 33 36 37 40 42 46
c104 42 0 3.24301e-20
c105 36 0 1.84933e-21
c106 29 0 4.18365e-19
r107 40 42 32.2205
r108 34 40 5.3531
r109 33 34 25
r110 30 46 2.4
r111 29 30 25
r112 26 42 5.3531
r113 25 29 0.839398
r114 25 26 25
r115 21 36 15
r116 18 21 0.468484
r117 18 36 10
r118 15 18 1.5911
r119 15 37 10
r120 13 33 0.0705516
r121 13 15 0.621913
r122 6 12 44.9134
r123 5 10 25.3858
r124 5 6 73.2283
r125 4 10 25.3858
r126 3 46 1.96703
r127 3 4 25.3858
.ends

.subckt PM_DFF%NET80 4 7 8 12 14 17 19 20 22 24 26 27 31 35 38 44 47 52 53 56 59
+ 61
c170 59 0 1.84933e-21
c171 24 0 1.45516e-19
c172 19 0 1.45516e-19
c173 14 0 1.19086e-19
c174 12 0 1.09162e-19
c175 8 0 1.8699e-19
c176 7 0 1.50534e-19
r177 56 57 25
r178 47 50 0.0103058
r179 47 48 25
r180 45 52 0.00944082
r181 44 56 0.00503833
r182 44 45 0.977209
r183 41 59 15
r184 38 41 0.577442
r185 38 59 10
r186 36 53 0.0363272
r187 36 38 0.521141
r188 35 53 0.0363272
r189 34 52 0.0363272
r190 34 35 0.136012
r191 31 61 10
r192 29 52 0.0363272
r193 29 31 0.850283
r194 28 50 0.0134635
r195 27 53 0.00944082
r196 27 28 0.63268
r197 20 48 9.29113
r198 20 22 44.9134
r199 14 26 44.9134
r200 13 17 2.62536
r201 13 14 33.4898
r202 12 17 2.62536
r203 11 24 25.3858
r204 11 12 33.3921
r205 8 57 4.38562
r206 7 17 0.682285
r207 7 8 23.4331
r208 4 48 5.48776
r209 3 19 25.3858
r210 3 4 50.2835
.ends

.subckt PM_DFF%Q 2 6 10 15 21 22
c65 15 0 3.22042e-20
c66 10 0 3.22042e-20
c67 2 0 2.73116e-19
r68 18 21 15
r69 15 18 0.468484
r70 15 25 0.881535
r71 15 21 10
r72 10 24 0.87842
r73 10 22 10
r74 6 25 0.0889225
r75 6 24 0.0909428
r76 5 6 1.7
r77 2 5 0.183581
.ends

.subckt PM_DFF%NET9 2 4 8 9 12 14 19 21 23 25 27 30 33 39 43 49 50 52 54 55 57
+ 59 60 62 66 68
c153 62 0 2.50173e-20
c154 54 0 1.26715e-19
c155 52 0 1.75157e-19
c156 33 0 3.24301e-20
c157 25 0 1.45516e-19
c158 21 0 1.45516e-19
c159 9 0 1.29499e-19
r160 57 58 0.170637
r161 55 68 5.3531
r162 54 55 25
r163 52 58 0.0055116
r164 51 52 0.974704
r165 49 51 0.0479332
r166 49 50 0.0884079
r167 46 59 15
r168 43 46 0.468484
r169 43 59 10
r170 41 57 0.0055116
r171 41 43 0.182709
r172 39 60 10
r173 37 50 0.0479332
r174 37 39 0.180366
r175 36 54 0.0705516
r176 36 39 0.891291
r177 34 66 5.3531
r178 33 34 25
r179 30 62 5.3531
r180 29 33 0.833134
r181 29 30 25
r182 18 19 2.62536
r183 18 68 80.5512
r184 14 27 44.9134
r185 13 25 25.3858
r186 13 14 73.2283
r187 12 25 25.3858
r188 11 19 0.682285
r189 11 12 47.8425
r190 9 19 2.62536
r191 9 66 20.0157
r192 8 62 75.6693
r193 4 23 44.9134
r194 3 21 25.3858
r195 3 4 73.2283
r196 2 21 25.3858
r197 1 8 3.46412
r198 1 2 47.8425
.ends

.subckt PM_DFF%VDD 1 6 12 22 28 34 37 43 50 56 63 69 76 84 87 99 101 103 105
+ 107 109
c277 1 0 1.66633e-19
r278 82 96 0.0264868
r279 82 84 0.129211
r280 80 109 15
r281 76 80 0.577442
r282 76 109 10
r283 74 96 0.018948
r284 74 80 1.6587
r285 70 94 0.0264868
r286 70 72 0.517817
r287 69 96 0.0264868
r288 69 72 0.171958
r289 67 107 15
r290 63 67 0.577442
r291 63 107 10
r292 61 94 0.018948
r293 61 67 1.6587
r294 57 92 0.0264868
r295 57 59 0.381805
r296 56 94 0.0264868
r297 56 59 0.560564
r298 54 105 15
r299 50 54 0.577442
r300 50 105 10
r301 48 92 0.018948
r302 48 54 1.78955
r303 44 90 0.0264868
r304 44 46 0.576108
r305 43 92 0.0264868
r306 43 46 0.113667
r307 41 103 15
r308 37 41 0.577442
r309 37 103 10
r310 35 90 0.018948
r311 35 41 1.9372
r312 31 34 0.525774
r313 29 88 0.0264868
r314 29 31 0.476351
r315 28 90 0.0264868
r316 28 34 0.0165158
r317 26 101 15
r318 22 26 0.577442
r319 22 101 10
r320 20 88 0.018948
r321 20 26 1.78955
r322 15 18 0.630929
r323 13 87 0.0264868
r324 13 15 0.0514903
r325 12 88 0.0264868
r326 12 18 0.0553763
r327 10 99 15
r328 6 10 0.577442
r329 6 99 10
r330 4 87 0.018948
r331 4 10 1.78955
r332 1 94 10
r333 1 90 10
r334 1 84 15
r335 1 72 10
r336 1 59 10
r337 1 46 10
r338 1 31 10
r339 1 18 10
r340 1 15 10
.ends

.subckt PM_DFF%NET94 2 9
c18 9 0 1.84933e-21
r19 6 9 15
r20 2 6 0.577442
r21 2 9 10
.ends

.subckt PM_DFF%NET23 3 9 10 13 19 21
c45 21 0 1.84933e-21
c46 19 0 1.84933e-21
r47 16 21 15
r48 13 16 0.468484
r49 13 21 10
r50 11 13 0.422807
r51 9 11 0.0479332
r52 9 10 0.551246
r53 6 19 15
r54 3 6 0.577442
r55 3 19 10
r56 1 10 0.0479332
r57 1 3 0.521141
.ends

.subckt PM_DFF%NET89 2 9
c17 9 0 3.69867e-21
r18 6 9 15
r19 2 6 0.577442
r20 2 9 10
.ends

.subckt PM_DFF%NET38 3 9 10 13 19 21
c45 19 0 1.84933e-21
r46 16 21 15
r47 13 16 0.468484
r48 13 21 10
r49 11 13 0.422807
r50 9 11 0.0479332
r51 9 10 0.741836
r52 6 19 15
r53 3 6 0.577442
r54 3 19 10
r55 1 10 0.0479332
r56 1 3 0.521141
.ends

.subckt PM_DFF%CLK 6 10 12 14 17 20 22
c54 12 0 1.45516e-19
c55 10 0 1.45516e-19
r56 20 23 5.16854
r57 20 22 5.25495
r58 17 20 25
r59 14 17 1.7
r60 6 12 44.9134
r61 6 23 29.2913
r62 3 10 25.3858
r63 3 22 29.2913
.ends

.subckt PM_DFF%D 6 10 12 14 20 21 22
c64 20 0 1.37453e-19
c65 14 0 1.2327e-19
r66 20 23 4.34387
r67 20 22 4.42737
r68 20 21 25
r69 17 21 0.249504
r70 14 17 1.7
r71 6 12 44.9134
r72 6 23 31.2441
r73 3 10 25.3858
r74 3 22 31.2441
.ends

.subckt PM_DFF%R 6 10 12 14 18 21 23
c56 21 0 2.28248e-19
c57 12 0 1.75157e-19
r58 21 24 5.29596
r59 21 23 5.41025
r60 18 21 25
r61 17 18 1.7
r62 14 17 0.102916
r63 6 12 44.9134
r64 6 24 29.2913
r65 3 10 25.3858
r66 3 23 29.2913
.ends

